US07230011B2
3-(1-Methyl-1,2,3,6-tetrahydropyridin-4-yl)-5-hydroxy-1H-indole
To a solution of 1H-indol-5-ol (18.60 g, 0.14 mol) in methanol (250 ml), stirring at room temperature under nitrogen, was slowly added potassium hydroxide (31.4 g, 0.56 mol) in methanol (100 mL). 1-methyl-4-piperidone (29.0 mL, 0.24 mol) was added dropwise to the black solution. The reaction mixture was heated at 70° C. for 8 hours, cooled to room temperature, concentrated in vacuo. The resulting residue was directly purified on silica gel. Elution with a 9:1 mixture of dichloromethane and 7 N ammonia in methanol provided 21.25 g (62%) of the title compound as a tan solid: mp=182-185° C.; 1H NMR (400 MHz, dmso-d6): 10.78 (br s, 1H), 8.64 (s, 1H), 7.22 (d, 1H, J=2.4 Hz), 7.13 (d, 1H, J=8.8 Hz), 7.10 (d, 1H, J=1.6 Hz), 6.59 (dd, 1H, J=8.8, 1.2 Hz), 5.94 (br s, 1H), 3.02-2.98 (m, 2H), 2.52 (br t, 2H, J=5.6 Hz), 2.48-2.42 (m, 2H), 2.24 (s, 3H); MS (APCI): m/e 229.1 (M+1).

reactant | 1H-indol-5-ol | 0.14 mol, 18.60 g | N1C=CC2=CC(=CC=C12)O | C8H7NO
reactant | potassium hydroxide | 0.56 mol, 31.4 g | [OH-].[K+]
reactant | 1-methyl-4-piperidone | 0.24 mol, 29.0 mL | CN1CCC(CC1)=O | C6H11NO
solvent | methanol | 250 ml | CO | CH4O
solvent | methanol | 100 mL | CO | CH4O
product | 3-(1-Methyl-1,2,3,6-tetrahydropyridin-4-yl)-5-hydroxy-1H-indole | 21.25 g, 62% | CN1CCC(=CC1)C1=CNC2=CC=C(C=C12)O | C14H16N2O
